US07199127B2
10.1 g (0.024 mol) of methanesulfonic acid {(4R)-(2,2-dimethyl[1,3]dioxolan-4-yl)}-{(4S,5S)-(5-methanesulfonyloxymethyl-2,2-dimethyl[1,3]dioxolan-4-yl)}-(S)methyl ester from the aforementioned Experimental Example 3 were dissolved in 260 mL of N,N-dimethylformamide, and 8.9 g (0.036 mol) of sodium sulfide were added. The reaction mixture was reacted at 100° C. for 3 h. The reaction mixture was concentrated under reduced pressure, and water was added to the concentrate, which was then extracted with ethyl acetate. The organic layer was dried and filtered, and the filtrate was concentrated under reduced pressure. The concentrate was purified by silica gel column chromatography using the eluant (hexane:ethyl acetate=5:1) to obtain 5.9 g (yield: 94%) of (3aS,4R,6aR)-4-((4R)-2,2-dimethyl[1,3]dioxolan-4-yl)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole as an oil.

reactant | methanesulfonic acid {(4R)-(2,2-dimethyl[1,3]dioxolan-4-yl)}-{(4S,5S)-(5-methanesulfonyloxymethyl-2,2-dimethyl[1,3]dioxolan-4-yl)}-(S)methyl ester | 0.024 mol, 10.1 g | CC1(OC[C@@H](O1)[C@@H]([C@H]1OC(O[C@H]1COS(=O)(=O)C)(C)C)OS(=O)(=O)C)C | C14H26O10S2
reactant | sodium sulfide | 0.036 mol, 8.9 g | [S-2].[Na+].[Na+]
solvent | N,N-dimethylformamide | 260 mL | CN(C=O)C | C3H7NO
product | (3aS,4R,6aR)-4-((4R)-2,2-dimethyl[1,3]dioxolan-4-yl)-2,2-dimethyltetrahydrothieno[3,4-d][1,3]dioxole | 5.9 g, yield: 94% | CC1(OC[C@@H](O1)[C@H]1SC[C@@H]2OC(O[C@@H]21)(C)C)C | C12H20O4S
